US07307086B2
tert-Butyl 7-Oxo-3-(trifluoromethyl)-5, 6,7,8-tetrahydro-1,6-naphthyridine-8-carboxylate
To a solution of tert-butyl methyl [3-cyano-5-(trifluoromethyl)pyridin-2-yl]malonate (4.02 g, 11.7 mmol) in ethanol (60 mL) was added a slurry of Raney Nickel (0.60 g, 10 mmol). The mixture was placed on a Parr apparatus and hydrogenated under hydrogen at 40 psi overnight. The suspension was filtered through celite and the filtrate was evaporated in vaccuo to afford 3.68 g (99.6%) of the desired product as a yellow oil. LC-MS calculated for C14H15F3N2O3: (M+H)+317; found 217.1 (M−CO2tBu+H+1)+.

reactant | tert-butyl methyl [3-cyano-5-(trifluoromethyl)pyridin-2-yl]malonate | 11.7 mmol, 4.02 g | C(#N)C=1C(=NC=C(C1)C(F)(F)F)C(C(=O)OC(C)(C)C)C(=O)OC | C15H15F3N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 60 mL | C(C)O | C2H6O
catalyst | Raney Nickel | 10 mmol, 0.60 g | [Ni] | Ni
product | tert-Butyl 7-Oxo-3-(trifluoromethyl)-5, 6,7,8-tetrahydro-1,6-naphthyridine-8-carboxylate | 3.68 g, 99.6% | O=C1NCC=2C=C(C=NC2C1C(=O)OC(C)(C)C)C(F)(F)F | C14H15F3N2O3
